US06977256B2
A suspension of {(S)-1-[hydroxy-(N-hydroxycarbamimidoyl)-methyl]-propyl}-carbamic acid tert-butyl ester (2.4 g, 9.7 mmol) in dioxane (15 ml) was treated with thiophene carbonyl chloride (1.45 g, 9.9 mmol) and triethylamine (1.36 ml, 9.8 mmol) and the mixture heated at 150° C. in a microwave (Smith Creator, S00219) for 15 minutes. Solvent evaporated under reduced pressure. The residue was subjected to flash chromatography eluting with a mixture of ethyl acetate and heptane to give {(S)-1-[hydroxy-(5-thiophen-3-yl-1,2,4-oxadiazol-3-yl)-methyl]-propyl}-carbamic acid tert-butyl ester, a mixture of diastereoisomers, (144 mg) as a brown solid. 1H NMR (CDCl3): 8.21 (m, 1H), 7.66 (m, 1H), 7.45 (m, 1H), 4.92-4.69 (m, 2H), 5.02-4.80 (m, 2H), 4.10-3.85 (2×m, 1H), 1.80-1.45 (m, 2H), 1.46 & 1.38 (2×s, 9H), 1.01 & 0.99 (2×t, J=7.5 Hz, 3H). MS: 340 (MH+).

reactant | {(S)-1-[hydroxy-(N-hydroxycarbamimidoyl)-methyl]-propyl}-carbamic acid tert-butyl ester | 9.7 mmol, 2.4 g | C(C)(C)(C)OC(N[C@@H](CC)C(C(NO)=N)O)=O | C10H21N3O4
reactant | thiophene carbonyl chloride | 9.9 mmol, 1.45 g | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | triethylamine | 9.8 mmol, 1.36 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | {(S)-1-[hydroxy-(5-thiophen-3-yl-1,2,4-oxadiazol-3-yl)-methyl]-propyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC)C(C1=NOC(=N1)C1=CSC=C1)O)=O | C15H21N3O4S
